US07091382B2
N-methyl-N-phenylaminoacrolein
To a solution of N-methylformanilide (30 g), butyl vinyl ether (22.2 g) in 25 ml of clorobenzene under stirring at 10° C., a solution of bis-trichloromethylcarbonate (24.3 g) in 50 ml of clorobenzene is added dropwise in 2 hours. The reaction mixture is kept under stirring at room temperature overnight. Water (50 ml) is added, the mixture is cooled at about 5–10° C. and the pH is corrected to about 7 by adding sodium hydroxide 30% aqueous solution (50 ml). After separation of the phases, the aqueous layer is extracted with chlorobenzene (50 ml) and the combined organic layers are washed with water (20 ml) and evaporated under reduced pressure. To the residue tert-butyl methyl ether (50 ml) is added and the mixture is cooled at −15° C. for 1 hour. The precipitate is filtered on Buchner, washed twice with tert-butyl methyl ether (25 ml×2) and dried at 30–35° C. under vacuum overnight. 24.66 g of pure compound are obtained (69% molar yield)

reactant | N-methylformanilide | 30 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | butyl vinyl ether | 22.2 g | C(=C)OCCCC | C6H12O
reactant | bis-trichloromethylcarbonate | 24.3 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | clorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | clorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | Water | 50 ml | O | H2O
product | N-methyl-N-phenylaminoacrolein | 24.66 g | CN(C1=CC=CC=C1)C(=O)C=C | C10H11NO
